US07160887B1
A mixture of tert-butyl[1-[3-(2-amino-5-chlorophenoxy)phenyl]-1-methylethyl]carbamate (2.5 g, 6.62 mmols), ethyl 4-bromobutyrate (9.0 g, 46 mmols), potassium carbonate (2.7 g, 20 mmols) and N,N-dimethylformamide (20 ml) was stirred at 80° C. for 24 hours. The reaction mixture was cooled, poured into water, and extracted with ethyl acetate. The extract was washed with water, and then dried with anhydrous magnesium sulfate. This was concentrated under reduced pressure, and the residue was purified through silica gel column chromatography to give an oil of ethyl 4-[N-[2-[3-(1-tert-butoxycarbonylamino-1-methylethyl)phenoxy]-4-chlorophenyl]]aminobutyrate (1.6 g, 49%).

reactant | tert-butyl[1-[3-(2-amino-5-chlorophenoxy)phenyl]-1-methylethyl]carbamate | 6.62 mmols, 2.5 g | C(C)(C)(C)OC(NC(C)(C)C1=CC(=CC=C1)OC1=C(C=CC(=C1)Cl)N)=O | C20H25ClN2O3
reactant | ethyl 4-bromobutyrate | 46 mmols, 9.0 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 20 mmols, 2.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 4-[N-[2-[3-(1-tert-butoxycarbonylamino-1-methylethyl)phenoxy]-4-chlorophenyl]]aminobutyrate | 1.6 g, 49% | C(C)(C)(C)OC(=O)NC(C)(C)C=1C=C(OC2=C(C=CC(=C2)Cl)NCCCC(=O)OCC)C=CC1 | C26H35ClN2O5
